US07846954B2
4-[(3′S)-3-(3,5-Dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-2,6-difluorobenzene-1-sulfonyl chloride
Synthesized according to General Procedure 11. To a solution of (3′S)-3-(3,5-dichlorophenyl)-1′-(3,5-difluorophenyl)-1,3′-bipyrrolidin-2′-one (50 mg, 0.12 mmol) in DCE (0.4 mL) at 0° C. was added chlorosulfonic acid (71 mg, 40 μL, 0.61 mmol) dropwise and the reaction mixture stirred from 0° C. to RT over 1 hour, the temperature was raised to 50° C. and the reaction mixture stirred at this temperature for 2 hours. More chlorosulfonic acid was added (71 mg, 40 μL, 0.61 mmol) and the reaction mixture was stirred at 50° C. for 2 hours. The reaction mixture was poured into water and extracted with EtOAc (3×). The combined organic extracts were washed with saturated aqueous NaHCO3, water, and brine, dried (Na2SO4) and evaporated to dryness. The crude product was used without further purification in the next reaction step. (LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=411.3; tR=1.46 min.

reactant | (3′S)-3-(3,5-dichlorophenyl)-1′-(3,5-difluorophenyl)-1,3′-bipyrrolidin-2′-one | 0.12 mmol, 50 mg | ClC=1C=C(C=C(C1)Cl)C1CN(CC1)[C@@H]1C(N(CC1)C1=CC(=CC(=C1)F)F)=O | C20H18Cl2F2N2O
reactant | chlorosulfonic acid | 0.61 mmol, 40 μL, 71 mg | ClS(=O)(=O)O | ClHO3S
reactant | water | O | H2O
solvent | DCE | 0.4 mL | ClCCCl | C2H4Cl2
product | 4-[(3′S)-3-(3,5-Dichlorophenyl)-2′-oxo-1,3′-bipyrrolidin-1′-yl]-2,6-difluorobenzene-1-sulfonyl chloride | ClC=1C=C(C=C(C1)Cl)C1CN(CC1)[C@@H]1C(N(CC1)C1=CC(=C(C(=C1)F)S(=O)(=O)Cl)F)=O | C20H17Cl3F2N2O3S
